US06331640B1
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(pyrrole-2-carbonyl)amino-L-alanine;
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(5-nitropyrazole-3-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(pyridine-2-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(6-methylpyridine-2-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[5-(3,4-dibromobutyl)pyridine-2-carbonyl]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(pyridine-3-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2-chloropyridine-3-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(6-chloropyridine-3-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2,6-dimethoxypyridine-3-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2-hydroxypyridine-3-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(pyrazine-2-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[3-[[(5-chloro-2-pyridinyl)amino]carbonyl]pyrazine-2-carbonyl]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2,4-dihydroxypyrimidine-5-carbonyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2,4-dihydroxypyrimidine-6-carbonyl)]amino-L-alanine),

reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(5-nitropyrazole-3-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=NNC(=C2)[N+](=O)[O-])C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C22H19ClN6O8
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(pyridine-2-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=NC=CC=C2)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C24H21ClN4O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(6-methylpyridine-2-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=NC(=CC=C2)C)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C25H23ClN4O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[5-(3,4-dibromobutyl)pyridine-2-carbonyl]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=NC=C(C=C2)CCC(CBr)Br)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C28H27Br2ClN4O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(pyridine-3-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2C=NC=CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C24H21ClN4O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2-chloropyridine-3-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2C(=NC=CC2)Cl)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C24H20Cl2N4O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(6-chloropyridine-3-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2C=NC(=CC2)Cl)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C24H20Cl2N4O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2,6-dimethoxypyridine-3-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2C(=NC(=CC2)OC)OC)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C26H25ClN4O8
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2-hydroxypyridine-3-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2C(=NC=CC2)O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C24H21ClN4O7
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(pyrazine-2-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=NC=CN=C2)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C23H20ClN5O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[3-[[(5-chloro-2-pyridinyl)amino]carbonyl]pyrazine-2-carbonyl]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=NC=CN=C2C(=O)NC2=NC=C(C=C2)Cl)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C29H23Cl2N7O7
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2,4-dihydroxypyrimidine-5-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2C(=NC(=NC2)O)O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C23H20ClN5O8
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(2,4-dihydroxypyrimidine-6-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=CC(=NC(=N2)O)O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C23H20ClN5O8
product | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(pyrrole-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2NC=CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C23H21ClN4O6
